US06399629B1
(B) N-tert-Butoxycarbonyl-cis-4-Hydroxy-L-Pipecolinic Acid Methyl Ester
Di-tert-butyl dicarbonate (4.39 mL) was added to a stirred solution of cis-4-hydroxy-L-pipecolinic acid methyl ester (A, 2.11 g) in methanol (40 mL). After the mixture was stirred at room temperature for 15 hr, additional di-tert-butyl dicarbonate (2.91 mL) was added to the mixture. The mixture was stirred at room temperature for 4 hr and evaporated in vacuo. The residue was purified by silica gel column chromatography (ethyl acetate:hexane=1:3 to 1:2, v/v) to give the title compound (2.80 g) as a colorless oil: 1H-NMR (400 MHz, CDCl3) δ 1.47 (s, 9H), 1.60-1.84 (m, 3H), 1.91 (ddd, J=2.4, 6.8, 14,2 Hz, 1H), 2.42 (d, J=14.2 Hz, 1H), 3.23-3.48 (m, 1H), 3.67-3.91 (m, 1H), 3.74 (s, 3H), 4.15 (m, 1H), and 4.66-4.83 (m, 1H).

reactant | Di-tert-butyl dicarbonate | 4.39 mL | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | cis-4-hydroxy-L-pipecolinic acid methyl ester | COC([C@@H]1NCC[C@@H](C1)O)=O | C7H13NO3
reactant | di-tert-butyl dicarbonate | 2.91 mL | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | methanol | 40 mL | CO | CH4O
product | N-tert-Butoxycarbonyl-cis-4-Hydroxy-L-Pipecolinic Acid Methyl Ester | 2.80 g | COC([C@@H]1N(CC[C@@H](C1)O)C(=O)OC(C)(C)C)=O | C12H21NO5
